US04654343
N-Ethyl-N-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]cyclobutanecarboxamide
A mixture of 2.0 g of N-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]cyclobutanecarboxamide and 0.36 g of sodium hydride (50% in oil) in 200 ml of dry dimethylformamide, under argon, was stirred for 1 hour, then 0.6 ml of ethyl iodide was added. This mixture was stirred overnight, then poured into 200 ml of water and extracted with dichloromethane. The extracts were combined, dried and evaporated in vacuo. The residue was chromatographed on a silica gel column, eluting with dichloromethane:methanol (97:3). The fractions containing product were combined and evaporated, giving 0.81 g of the desired compound as yellow crystals, mp 157°-159° C.

reactant | N-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]cyclobutanecarboxamide | 2.0 g | CC1=NN=C2N1N=C(C=C2)C=2C=C(C=CC2)NC(=O)C2CCC2 | C17H17N5O
reactant | sodium hydride | 0.36 g | [H-].[Na+]
reactant | ethyl iodide | 0.6 ml | C(C)I | C2H5I
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | N-Ethyl-N-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]cyclobutanecarboxamide | 0.81 g | C(C)N(C(=O)C1CCC1)C1=CC(=CC=C1)C=1C=CC=2N(N1)C(=NN2)C | C19H21N5O
